US04865837
A mixture of 40.0 mmol of pyridine and 40.0 mmol of 2-(methanesulfonyl)ethanol in 25 ml of dichloromethane was added dropwise over a 40 minute period to an ice-cold, continuously stirred mixture of 40.0 mmol of trifluoromethanesulfonic anhydride in 50 ml of dichloromethane. After being stirred for 15 minutes, the mixture was washed with two 50 ml portions of cold water, dried over magnesium sulfate, filtered, and concentrated to give an oil that was passed through a short column of silica gel and eluted with dichloromethane. There was obtained 9.31 grams of pure 2-(methanesulfonyl)ethyl trifluoromethanesulfonate as a colorless oil.

reactant | pyridine | 40.0 mmol | N1=CC=CC=C1 | C5H5N
reactant | 2-(methanesulfonyl)ethanol | 40.0 mmol | CS(=O)(=O)CCO | C3H8O3S
reactant | trifluoromethanesulfonic anhydride | 40.0 mmol | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 2-(methanesulfonyl)ethyl trifluoromethanesulfonate | 9.31 grams | FC(S(=O)(=O)OCCS(=O)(=O)C)(F)F | C4H7F3O5S2
